US07163936B2
To a solution of 1-allyl 4-methyl (2R)-2-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate (0.30 g, 1.25 mmol) and bromochloromethane (125 μl) in THF (15 ml) was added −90 to −80° C. a solution of n-butyllithium in hexane (1.59M, 1.15 ml) over a 15 minutes period. After stirring for additional 15 minutes, the reaction mixture was poured into a mixture of-ice (10 g) and phosphate buffer (pH 7.0, 10 ml). After ethyl acetate was added thereto and the mixture was separated by a separating funnel, the aqueous layer was extracted twice with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over magnesium sulfate and the organic solvent was removed under reduced pressure. The residue was purified by silica gel (25 g) chromatography to give allyl (2R)-4-(chloroacetyl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate (255 mg, 80%).

reactant | 1-allyl 4-methyl (2R)-2-methyl-3,6-dihydro-1,4(2 H)-pyridinedicarboxylate | 1.25 mmol, 0.30 g | C[C@H]1N(CC=C(C1)C(=O)OC)C(=O)OCC=C | C12H17NO4
reactant | bromochloromethane | 125 μl | BrCCl | CH2BrCl
reactant | n-butyllithium | C(CCC)[Li]
reactant | phosphate | 10 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.59M, 1.15 ml | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | allyl (2R)-4-(chloroacetyl)-2-methyl-3,6-dihydro-1(2 H)-pyridinecarboxylate | 255 mg, 80% | ClCC(=O)C=1C[C@H](N(CC1)C(=O)OCC=C)C | C12H16ClNO3
